US08008298B2
A solution of 2,2-Dimethyl-3-triisopropylsilanyloxy-propan-1-ol (1.39 g, 5.34 mmol) (Journal of the American Chemical Society, 123(39), 9687-9688; 2001) dissolved in ACN (14 ml), CCl4 (14 ml), and water (22 ml) was treated with sodium periodate (4.57 g, 21.4 mmol) and then RuCl3—H2O (33 mg, 0.16 mmol). After stirring at room temperature for approximately 2 hours, the reaction mixture was partitioned between DCM/water. The organic layers were collected, dried over MgSO4, filtered, and concentrated giving a black oil. Silica gel chromatography using 0-30% EtOAc in hexanes as eluant provided 1.23 mg (84%) of 2,2-dimethyl-3-triisopropylsilanyloxy-propionic acid. M−H=569.

reactant | 2,2-Dimethyl-3-triisopropylsilanyloxy-propan-1-ol | 5.34 mmol, 1.39 g | CC(CO)(CO[Si](C(C)C)(C(C)C)C(C)C)C | C14H32O2Si
reactant | CCl4 | 14 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | water | 22 ml | O | H2O
reactant | sodium periodate | 21.4 mmol, 4.57 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | ACN | 14 ml | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2,2-dimethyl-3-triisopropylsilanyloxy-propionic acid | 1.23 mg, 84% | CC(C(=O)O)(CO[Si](C(C)C)(C(C)C)C(C)C)C | C14H30O3Si
